Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"suicidal thoughts"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Per Dr. ___ ___  ED Psychiatry Initial Consultation
note:

___ is a ___ year old ___ [correction: ___ 
___ senior studying ___ who was
brought in by EMS after her friend alerted ___ public safety 
about
suicidal statements patient had been making. Patient was found
wandering a ___ bridge aimlessly. She notes that she had a plan 
to
jump off of a bridge in order to take her life and had been
feeling strongly about doing so for the past several weeks. Two
weeks prior, she states that she was at ___ 
___
admitted at an inpatient psychiatric facility due to depression.
She also notes having an abortion around that time as well. She
describes feeling scared about her suicidal thoughts two weeks
ago when she presented to ___, but now feels ready
to die but afraid about the pain associated with dying. She
states that she does not want to be a burden to her boyfriend,
her friends or her parents and so wants to take her own life so
that they "would not have to spend their time on me." She also
notes difficulty with her relationship with her boyfriend and
notes conflict regarding what she is hiding from her family
regarding the relationship (including her two abortions in the
past year). She endorses having difficulty concentrating on her
schoolwork and feels hopeless about recovering from her
depression. She endorses having plans to move back to ___ to
live with her parents on ___ and has plans for following up
with mental health care in ___, but at this time feels 
strongly
that she should end her life instead of "being a burden on my
parents." She notes that her parents are very supportive and
loving, but that is why she feels the need to end her life so
that she will not deter them from their work and their lives. 
She
denies any HI/AVH."

On admission to the inpatient psychiatric unit, patient
corroborates the information above. She reports depressive
symptoms that started at the end of ___, and have acutely
worsened since ___. Patient initially felt better after
being discharged from ___ approximately 
two
weeks ago. Over the past four days she reports severe depressive
symptoms with suicidal ideation and plan to overdose on
medication or jump from a high building in the context of 
ongoing
verbal abuse from boyfriend and recent abortions. Patient 
reports
low mood, difficulty falling asleep and staying asleep, 
decreased
energy, poor concentration, and decreased appetite with ~3kg
weight loss in past month. She also endorses anxiety and
rumination. She denies a history of decreased need for sleep,
elevated mood, auditory and visual hallucinations, and paranoia.
Patient reports ongoing suicidal ideation with plan to overdose
on pills or jump from a high place. She says that if she dies 
her
parents and friends won't have to spend so much time on her. She
thinks of herself as a trouble to others and feels like she is
wasting her friends' and family's time. Her boyfriend also tells
her that she is a horrible person and patient says that she
agrees with him, admitting to having made "many mistakes" in the
past. Patient endorses feeling safe on the inpatient unit and
agrees to notify staff if this changes. 

 
Past Medical History:
-Diagnoses:
--Two prior elective abortions, most recently on ___ at 5
weeks pregnant
-PCP: ___ history of head trauma, seizure.

 
Social History:
___
Family History:
-Psychiatric Diagnoses: Maternal aunt with depression
-___ Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
Admission PE: 
VITAL SIGNS:
T 97.9, HR 88, BP 103/70, RR 15, SpO2 99% on RA
 
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
small
area of fluctuance behind right molar, supple neck.  No scleral
icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes noted, band aid on left wrist.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: attentive to interview, unable to do MOYB ___
language barrier
-Orientation: Oriented to person, time, place, situation
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education;
-Calculations: 7 quarters = "$1.75"
-Language: Speaks ___ but with heavy accent and few
grammatical errors

Mental Status:
-Appearance: Asian female wearing hospital gown, fair grooming,
sad appearing
 -Behavior: Sitting up in chair, intermittent eye contact, 
psychomotor slowing
-Attitude: Cooperative, forthcoming
-Mood: "sad"
-Affect: Mood-congruent, dysphoric, able to brighten up a bit
when talking about her cats 
-Speech: Normal rate, quiet volume, and tone; 
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Suicidal ideation with plan to OD on medication or
jump from high building
---Delusions: No evidence of paranoid delusions, grandiose
delusions, persecutory delusions, delusions of reference, or
delusions of thought insertion, withdrawal, or broadcasting
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

Discharge MSE:
VS: 
T: 98.0, BP: 121/78, HR: 69, RR: 16, O2 Sat: 100% 
Appearance: Age-appearing woman, dressed in hospital gown, 
recently woken up
Behavior: Calm and cooperative with interview, calmly seated 
Speech: quiet volume, normal rate, rhythm, tone, prosodoy
Mood: "Better...not anxious"
Affect: Constricted-range, but still reactive, smiles anxiously
Thought process: Linear, goal-directed, no LOA
Thought content: Denies SI, HI, AVH, no overt paranoia 
Insight/judgment: improved/improved

 
Pertinent Results:
___ 03:04PM   CHOLEST-149
___ 03:04PM   %HbA1c-5.4 eAG-108
___ 03:04PM   TRIGLYCER-86 HDL CHOL-45 CHOL/HDL-3.3 
LDL(CALC)-87
___ 03:04PM   TSH-1.6
___ 03:04PM   PTH-26
___ 03:04PM   25OH VitD-11*
___ 03:04PM   Trep Ab-NEG
___ 01:45AM URINE  UCG-POSITIVE*
___ 01:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-TR*

Final Report
EXAMINATION:  PELVIS U.S., TRANSVAGINAL
 
INDICATION:  ___ year old woman s/p abortion 3 weeks ago// 
evaluate for POC
 
TECHNIQUE:  Grayscale ultrasound images of the pelvis were 
obtained with
transabdominal approach followed by transvaginal approach for 
further
delineation of uterine and ovarian anatomy.
 
COMPARISON:  Pelvic ultrasound ___
 
FINDINGS: 
 
The uterus is anteverted and measures 7.4 cm x 4.4 cm x 6.2 cm.  
The
endometrium is homogenous and measures 3 mm.
 
The ovaries are normal.  There is no free fluid.
 
IMPRESSION: 
 
Normal pelvic ultrasound.
 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11). She subsequently signed a 3 day 
notice that expired on ___. 

She was also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted. Given ongoing thoughts of suicide, the patient 
was placed on red sharps restriction. 

There were no acute safety issues that occurred during hospital 
course that required significant physical or medical 
intervention. 

2. PSYCHIATRIC:
#) Major depressive disorder
On admission to the inpatient unit, the patient endorsed 
longstanding history of untreated depressive symptoms that began 
in ___ which have acutely worsened since ___, further 
exacerbated in the last 4 days due to ongoing interpersonal 
stressors with her boyfriend. She met criteria for MDD, denying 
hx of psychotic or manic symptoms. Chiefly, she describes 
feelings of low self-worth and feeling that she is a burden on 
family and friends. During the course of hospitalization, she 
stated that her suicidal ideation lessened in intensity as she 
was given time to introspect.

3. SUBSTANCE USE DISORDERS:
#) The patient did not have any substance use disorders

4. MEDICAL
#Leukopenia: 
On ED presentation, the patient's WBC was 2.3. On serial 
evaluations, this WBC steadily increased during hospital course. 
She did not have any concerning s/s of infections. The etiology 
of this leukopenia is unclear, though this may be due to the use 
of methotrexate with regards to her recent abortion.  

#Allergic reaction [periorbital edema]
The patient had an episode of periorbital edema. This edema 
quickly resolved. She was evaluated by the medical consulting 
team; it is not likely that this was due to initiation of 
abilify. 

#Recent Abortion:
The patient was evaluated by OB/GYN prior to inpatient 
psychiatric admission. She did not endorse worsening pain or 
vaginal bleeding and remained medically stable during 
psychiatric hospitalization. She had a repeat transvaginal 
ultrasound that had normal findings that were not suggestive of 
retained products of conception. 

#Mouth Pain: 
The patient was found to have an area of small fluctuance behind 
her R molar. She was given PRN tylenol. She was advised to 
follow-up with a dentist regarding her tooth pain.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient was seen in the milieu socializing with peers and also 
participated in groups. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Family meeting was held with her mother and maternal uncle to 
discuss aftercare planning and provide clinical updates. During 
the family meetings, she was able to share her condition with 
her mother and uncle; her family was very supportive and was 
actively involved in disposition planning, with plan for 
discharge back to ___. They were also able to find a 
psychiatrist that Ms. ___ plans on seeing on ___. 

#) INTERVENTIONS
- Medications: Aripiprazole
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Please see above
- Behavioral Interventions: Encouraged DBT skills to improve 
distress tolerance and provide additional coping skills

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting aripiprazole and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

Aripiprazole [Abilify]
Benefits: Decreased depression, mood stabilization
Risks: Increased risk for diabetes, dizziness, sedation, 
orthostatic hypotension, tardive dyskinesia [rare], neuroleptic 
malignant syndrome [rare], seizures [rare]

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at 
acute risk of harm to self.  Their static factors noted at that 
time include previous
inpatient psychiatric hospitalizations, history of suicide 
attempts, family history of mental illness, young age, and 
unclear social supports.   The modifiable risk factors were 
ongoing suicidal ideation with recent plan to jump off the BU 
bridge, poorly controlled mental illness, unclear outpatient 
treatment, social withdrawal.

She was started on abilify target her depression. She no longer 
endorses any suicidal ideation. The patient was able to have 
extensive conversations with her family regarding her depression 
and they have appeared supportive in her continuing care, in 
addition to finding an outpatient psychiatrist for her in ___. 
The patient is being discharged with several protective risk 
factors, which are his good relationship with his outpatient 
providers and family support. Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm, danger to others, nor is unable to 
care for herself in the community. 

Our prognosis of this patient is guarded; while she was able to 
discuss her mood and suicidal ideation to her family during 
hospital course, she was still a bit apprehensive with sharing 
the full details of her presentation to her family. Given her 
history of suicide attempts, she will always be chronically at 
elevated risk of harm to self. Continued outpatient follow-up 
with psychiatric providers ___ be imperative to address her 
ongoing depression.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO BID 
2. OXcarbazepine 300 mg PO BID 
3. HydrOXYzine 25 mg PO Q6H:PRN anxiety 
4. ClonazePAM 0.5 mg PO QHS 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO QHS  
2.  Fexofenadine 60 mg PO BID allergies  
3.  BuPROPion (Sustained Release) 200 mg PO BID  
4.  ClonazePAM 0.5 mg PO QHS  
5.  HydrOXYzine 25 mg PO Q6H:PRN anxiety  
6.  OXcarbazepine 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
On day of discharge, Ms. ___ reported feeling well. She denied 
having suicidal ideation, stating she last had ideations two 
days ago. She described her mood as 'good...no longer anxious.' 
She is future-oriented to return to ___ with her family. We 
discussed the importance of family support, outpatient 
psychiatric support, and the appropriate steps in the case of 
emergency. 

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___